### PR TITLE
Add Erdős Problem 977 (greatest prime factor of 2^n - 1), link the formal proof

### LINKED ISSUE #6254: Erdős Problem 977
### What is the Erdős problem?

https://www.erdosproblems.com/977

If $P(m)$ is the greatest prime divisor of $m$, then is it true that $\frac{P(2^n-1)}{n}\to \infty$ as $n\to \infty$?

Status: proved (Stewart 2013, with $P(2^n-1) \gg n^{1 + 1/(104 \log\log n)}$). A formal proof exists in plby/lean-proofs (`Erdos977.erdos_977`, Codex and GPT-5.6 Sol), via a cyclotomic reduction and a $p$-adic interpolation-determinant bound on Fermat quotients.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6254.

### What changed
Adds `FormalConjectures/ErdosProblems/977.lean` with:
- `erdos_977` (`research solved`, `answer(True)`): `P(2^n - 1) / n → ∞` (Stewart [St13]), stated with the existing `Nat.maxPrimeFac`. Linked to plby/lean-proofs `Erdos977.erdos_977` (Codex and GPT-5.6 Sol; single Mathlib-only file). plby's proof reduces to a uniform bound `v_p(2^{p-1} - 1) · log p ≪ p / log p + log p` on Fermat quotients, obtained from a `p`-adic interpolation determinant, and then runs the cyclotomic argument (primes dividing `Φ_n(2)` are `≡ 1 (mod n)`).
- Variants: `schinzel` (`P(2^n-1) > 2n` for `n > 12` [Sc62]), `stewart` (`P(2^n-1) ≫ n^{1 + 1/(104 log log n)}` [St13]), the open `factorial` (`P(n!+1)/n → ∞`?) and `lai` (`limsup P(n!+1)/n ≥ 1 + 9 log 2` [La21]).

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos977.erdos_977` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby's `greatestPrimeFactor` is `Nat.maxPrimeFac` on `m > 1`):

<details>
<summary>Bridge</summary>

```lean
open Filter

namespace Bridge977

/-- The two "greatest prime factor" functions agree on `m > 1`. -/
lemma maxPrimeFac_eq {m : ℕ} (hm : 1 < m) :
    Nat.maxPrimeFac m = Erdos977Plby.greatestPrimeFactor m := by
  apply le_antisymm
  · exact Erdos977Plby.prime_le_greatestPrimeFactor hm (Nat.prime_maxPrimeFac_of_one_lt m hm)
      Nat.maxPrimeFac_dvd
  · exact Nat.le_maxPrimeFac (by omega) (Erdos977Plby.greatestPrimeFactor_prime hm)
      (Erdos977Plby.greatestPrimeFactor_dvd hm)

theorem erdos_977_bridge : type_of% Erdos977.erdos_977 := by
  show True ↔ _
  simp only [true_iff]
  refine Erdos977Plby.erdos_977.congr' ?_
  filter_upwards [eventually_ge_atTop 2] with n hn
  have h : 1 < Erdos977Plby.mersenne n := by
    unfold Erdos977Plby.mersenne
    have : 4 ≤ 2 ^ n := by
      calc 4 = 2 ^ 2 := by norm_num
        _ ≤ 2 ^ n := Nat.pow_le_pow_right (by norm_num) hn
    omega
  rw [← maxPrimeFac_eq h]
  rfl

end Bridge977
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«977»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/977.lean [hunk 1]
```diff
@@ -0,0 +1,93 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/977.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
